US06258842B1
1-(3-Dimethylaminopropyl)-1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carbonitrile.
5-Amino-1-(3-dimethylaminopropyl)-1-(4-fluorophenyl)-1,3-dihydroisobenzofuran (18 g, 0.06 mole) is dissolved in water (100 ml) and H2SO4(8 ml). NaNO2(4.1 g, 0.06 mole) is dissolved in water (20 ml) and added dropwise below 5° C. The diazotised solution is stirred for 0.5 hour at 0-5° C. pH is brought to 6.5 by adding a saturated solution of Na2CO3. This solution is added to a mixture of water (100 ml) and toluene (120 ml) containing CuCN(6 g, 0.067 mole) and NaCN (10 g, 0.2 mole) at 50-60C°. Stirring is continued for 0.5 hour. The phases are separated and the aqueous phase is further extracted with toluene (100 ml). The combined organic phase is washed with NaCN(10% aq., 2×50 ml). The solvent is removed in vacuo and the residue is chromatograhed on silica gel (ethyl acetate: n-heptane: triethylamine; 85:10:5 ) to give the title compound (6 g, 32%) as an oil.

reactant | 5-Amino-1-(3-dimethylaminopropyl)-1-(4-fluorophenyl)-1,3-dihydroisobenzofuran | 0.06 mole, 18 g | NC=1C=C2COC(C2=CC1)(C1=CC=C(C=C1)F)CCCN(C)C | C19H23FN2O
reactant | NaNO2 | 0.06 mole, 4.1 g | N(=O)[O-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CuCN | 0.067 mole, 6 g | C(#N)[Cu]
reactant | NaCN | 0.2 mole, 10 g | [C-]#N.[Na+]
solvent | water | 100 ml | O | H2O
solvent | H2SO4 | 8 ml | OS(=O)(=O)O | H2O4S
solvent | water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Dimethylaminopropyl)-1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carbonitrile | 6 g, 32% | CN(CCCC1(OCC2=CC(=CC=C12)C#N)C1=CC=C(C=C1)F)C | C20H21FN2O
